US08242130B2
To a mixture of 2-bromo-1,4-naphthoquinone (1.0 g, 4.22 mmol), 4-hydroxyphenylboronic acid (640 mg, 4.64 mmol), potassium phosphate (3.135 g, 14.76 mmol), tricyclohexylphosphine (118 mg, 0.422 mmol), toluene (20 mL) and water (1 mL) was added palladium acetate (47 mg, 0.21 mmol) under N2. The reaction mixture was heated to 100° C. for 3 h. The reaction was cooled to rt and water was added. The mixture was extracted with EtOAc, and the combined organic extracts were washed with water and brine. The organic phase was separated, dried and concentrated to give crude product. Purification by column chromatography, using 10% EtOAc in hexane, gave 480 mg of 2-(4-hydroxy-phenyl)-[1,4]naphthoquinone (45%). MS (ES) m/z: 251.03 (M+1).

reactant | 2-bromo-1,4-naphthoquinone | 4.22 mmol, 1.0 g | BrC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H5BrO2
reactant | 4-hydroxyphenylboronic acid | 4.64 mmol, 640 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | potassium phosphate | 14.76 mmol, 3.135 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.422 mmol, 118 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | palladium acetate | 0.21 mmol, 47 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-hydroxy-phenyl)-[1,4]naphthoquinone | 480 mg, 45% | OC1=CC=C(C=C1)C=1C(C2=CC=CC=C2C(C1)=O)=O | C16H10O3
